US05928886
(b) Preparation of N,N-Dimethyl-2-(phenyltelluro)benzenemethanamine, Hydrochloride Salt (Te2)
To a slurry of 2-(N,N-dimethylaminomethyl)-1-phenyltellurobenzene (1.02 g, 3.0 mmol) in ether (50 mL) in a water bath was added dropwise by syringe a hydrogen chloride/ether solution (3.15 mL, 1.0 M, 3.15 mmol). The thick slurry was diluted with isopropanol (20 mL) then filtered. The white solid was washed with ether, and air dried, to give the product (1.13 g, 95%). 1H NMR (CDCl3) d 2.6 (1H, br s), 8.13 (1H, d, J=7.5), 7.80 (1H, d, J=7.7), 7.52-7.48 (3H, m), 7.26-7.17 (4H, m), 4.44 (2H, d, J=5.8), 2.68 (6H, d, J=4.5). Anal. calc'd for C15H18ClNTe: C, 48.00; H, 4.83; N, 3.73. Found: C, 47.97; H, 4.87; N, 3.65.

reactant | 2-(N,N-dimethylaminomethyl)-1-phenyltellurobenzene | 3.0 mmol, 1.02 g | CN(C)CC1=C(C=CC=C1)[Te]C1=CC=CC=C1 | C15H17NTe
reactant | hydrogen chloride ether | 3.15 mmol, 1.0 M, 3.15 mL | Cl.CCOCC
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
product | N,N-Dimethyl-2-(phenyltelluro)benzenemethanamine, Hydrochloride Salt | 1.13 g, 95% | Cl.CN(CC1=C(C=CC=C1)[Te]C1=CC=CC=C1)C | InChI=1S/C15H17NTe.ClH/c1-16(2)12-13-8-6-7-11-15(13)17-14-9-4-3-5-10-14;/h3-11H,12H2,1-2H3;1H
